* BFR93A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT23 DIE MODEL : BFR91A
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFR93A 1 2 3
Q1 6 5 7 7 BFR91A
* SOT23 parasitic model
               Lb  4 5 .4n 
               Le  7 8 .83n
               L1  2 4 .35n
               L2  1 6 .17n
               L3  3 8 .35n
              Ccb  4 6 71f
              Cbe  4 8 2f
              Cce  6 8 71f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFR91A.PRM                                     Date: Feb 1992
*
.MODEL  BFR91A   NPN
+              IS = 1.32873E-015
+              BF = 1.02000E+002
+              NF = 1.00025E+000
+             VAF = 5.19033E+001
+             IKF = 8.15511E+000
+             ISE = 1.39029E-014
+              NE = 1.51292E+000
+              BR = 1.76953E+001
+              NR = 9.94038E-001
+             VAR = 3.28032E+000
+             IKR = 1.00000E+001
+             ISC = 1.04297E-015
+              NC = 1.18993E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
+             RBM = 1.00000E+001
+              RE = 7.63636E-001
+              RC = 9.00000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.03216E-012
+             VJE = 6.00000E-001
+             MJE = 2.90076E-001
+              TF = 6.55790E-012
+             XTF = 3.89752E+001
+             VTF = 1.09308E+001
+             ITF = 5.21078E-001
+             CJC = 1.00353E-012
+             VJC = 3.40808E-001
+             MJC = 1.94223E-001
.ENDS

